US05811459
Methyl 4-(2-(2-benzyloxyphenyl)ethyl]-3-fluorobenzoate was prepared from methyl 4-[2-(2-hydroxyphenyl)ethyl]-3-fluorobenzoate using the method described in Example 1 for the synthesis of methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate.

reactant | methyl 4-[2-(2-hydroxyphenyl)ethyl]-3-fluorobenzoate | OC1=C(C=CC=C1)CCC1=C(C=C(C(=O)OC)C=C1)F | C16H15FO3
reactant | methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C24H24O3
product | Methyl 4-(2-(2-benzyloxyphenyl)ethyl]-3-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC1=C(C=C(C(=O)OC)C=C1)F | C23H21FO3
